US07989457B2
A solution of 4-(1-methoxymethylenepropyl)-4′-trifluoromethylbiphenyl (278 mg, 0.908 mmol) in THF (9.1 mL) is treated with concentrated hydrochloric acid (0.456 mL), and the reaction is heated at reflux overnight. The reaction mixture is cooled to RT, and extracted with EtOAc (3×). The combined organic layers are dried and concentrated, giving 2-(4′-trifluoromethylbiphenyl-4-yl)butyraldehyde as a crude residue to be used as is (weight in excess of theoretical yield).

reactant | 4-(1-methoxymethylenepropyl)-4′-trifluoromethylbiphenyl | 0.908 mmol, 278 mg | COC=C(CC)C1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F | C18H17F3O
reactant | hydrochloric acid | 0.456 mL | Cl | ClH
solvent | THF | 9.1 mL | C1CCOC1 | C4H8O
product | 2-(4′-trifluoromethylbiphenyl-4-yl)butyraldehyde | FC(C1=CC=C(C=C1)C1=CC=C(C=C1)C(C=O)CC)(F)F | C17H15F3O
